US03966744
To 20 ml of cold saturated potassium carbonate solution in a 125 ml separatory funnel was added a solution of 5.0 g (213 mmoles) ecgonine methyl ester hydrochloride in 5 ml water. The aqueous mixture was extracted with 4 × 50 ml of chloroform. The combined chloroform extracts were dried over anhydrous sodium carbonate and evaporated in vacuo. Pumping at 0.05 mm Hg for 15 minutes yielded 4.0 g (93%) of TLC pure (20:1, CHCl3 :MeOH) ecgonine methyl ester.

reactant | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ecgonine methyl ester hydrochloride | 213 mmoles, 5.0 g | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)O)C(=O)OC.Cl
solvent | water | 5 ml | O | H2O
product | ecgonine methyl ester | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)O)C(=O)OC | C10H17NO3
